US04672066
4-(4-Acetyl-3-hydroxy-2-propylphenoxy)butanoic acid was allowed to react with 3-pyridine hexanamine according to procedure A and the product was purified by chromatography on silica gel to give 4-(4-acetyl-3-hydroxy- 2-propylphenoxy)-N-[6-(3-pyridinyl)hexyl]butanamide, the title compound, mp 69°-71° (from ether-hexane) in 84% yield.

reactant | 4-(4-Acetyl-3-hydroxy-2-propylphenoxy)butanoic acid | C(C)(=O)C1=C(C(=C(OCCCC(=O)O)C=C1)CCC)O | C15H20O5
reactant | 3-pyridine hexanamine | N1=CC(=CC=C1)CCCCCCN | C11H18N2
product | 4-(4-acetyl-3-hydroxy- 2-propylphenoxy)-N-[6-(3-pyridinyl)hexyl]butanamide | C(C)(=O)C1=C(C(=C(OCCCC(=O)NCCCCCCC=2C=NC=CC2)C=C1)CCC)O | C26H36N2O4
